US06689922B1
(E)-9-[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-3-ethyldec-8-en-3-ol
In a manner similar to Example 53(e), by reacting 397 mg (0.85 mmol) of dimethyl 4-[3-((E)-7-ethyl-7-hydroxy-1-methylnon-1-enyl)phenoxymethyl]phthalate (prepared in a manner similar to Examples 72(a-c)) with 55 mg (2.5 mmol) of lithium borohydride, a colourless oil is obtained (m=323 mg; Y=92%).

reactant | dimethyl 4-[3-((E)-7-ethyl-7-hydroxy-1-methylnon-1-enyl)phenoxymethyl]phthalate | 0.85 mmol, 397 mg | C(C)C(CCCC/C=C(\C)/C=1C=C(OCC=2C=C(C(C(=O)OC)=CC2)C(=O)OC)C=CC1)(CC)O | C29H38O6
reactant | lithium borohydride | 2.5 mmol, 55 mg | [BH4-].[Li+]
product | (E)-9-[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-3-ethyldec-8-en-3-ol | OCC=1C=C(COC=2C=C(C=CC2)/C(=C/CCCCC(CC)(O)CC)/C)C=CC1CO | C27H38O4
